US04985444
A mixture of 2-phenylpyrazolo[1,5-a]pyridine-3-carbaldehyde (1.00 g), methyl acetoacetate (1.10 g), and 14% methanolic ammonia (18 ml) in a mixture of methanol (20 ml) and chloroform (10 ml) was stirred for 246 hours at room temperature. The solvent was removed in vacuo and the residue was dissolved in methylene chloride (30 ml). The solution was washed with water (10 ml) and sodium chloride aqueous solution (10 ml), dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel (15 g) with a mixture of n-hexane and ethyl acetate (2:1). The fractions containing the object compound were combined and evaporated in vacuo to give 3-[2,6-dimethyl-3,5-bis(methoxycarbonyl)-1,4-dihydropyridin-4-yl]-2-phenylpyrazolo[1,5-a]pyridine. This compound was purified from a mixture of ethyl acetate and n-hexane.

reactant | 2-phenylpyrazolo[1,5-a]pyridine-3-carbaldehyde | 1.00 g | C1(=CC=CC=C1)C1=NN2C(C=CC=C2)=C1C=O | C14H10N2O
reactant | methyl acetoacetate | 1.10 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | ammonia | 18 ml | N | H3N
solvent | methanol | 20 ml | CO | CH4O
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-[2,6-dimethyl-3,5-bis(methoxycarbonyl)-1,4-dihydropyridin-4-yl]-2-phenylpyrazolo[1,5-a]pyridine | CC=1NC(=C(C(C1C(=O)OC)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2)C(=O)OC)C | C24H23N3O4
